US05571813
Preparation of 7-Ethylimidazo[1,2-a]pyrimidine-5-ol
20.0 g (151.4 mmol) commercially available (Aldrich) 2-aminoimidazole sulfate and 19.7 g (151.4 mmol) methyl 3-oxo-n-valerate were heated with reflux in 27 ml acetic acid for 7 h. After cooling to room temperature remaining solids were removed by filtration, and the filtrate was diluted with water, neutralized with sodium hydroxide, and extracted with dichloromethane. The organic layer was dried over sodium sulfate, evaporated in vacuo, while the title compound crystallized in colorless crystals, which were filtered with suction, washed with hexane, and dried in vacuo, m.p. 93°-94° C.

reactant | 2-aminoimidazole sulfate | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | methyl 3-oxo-n-valerate | 151.4 mmol, 19.7 g | CCC(=O)CC(=O)OC | C6H10O3
solvent | acetic acid | 27 ml | C(C)(=O)O | C2H4O2
product | 7-Ethylimidazo[1,2-a]pyrimidine-5-ol | C(C)C1=NC=2N(C(=C1)O)C=CN2 | C8H9N3O
